US03962259
Treatment of 4-hydroxy-4-(α-hydroxy-5-methyl-2-tolyl)-1-methylpiperidine with hydrochloric acid by the method described in Example 16d provides 1,3-dihydro-1',5-dimethylspiro[isobenzofuran-1,4'-piperidine].

reactant | 4-hydroxy-4-(α-hydroxy-5-methyl-2-tolyl)-1-methylpiperidine | OC1(CCN(CC1)C)C1=C(C=C(C=C1)C)CO | C14H21NO2
reactant | hydrochloric acid | Cl | ClH
product | 1,3-dihydro-1',5-dimethylspiro[isobenzofuran-1,4'-piperidine] | CN1CCC2(CC1)OCC1=CC(=CC=C12)C | C14H19NO
